US07507740B2
Production of 4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}-N-(2-hydroxyethyl)benzamide
To a solution of 4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}benzoic acid (126 mg) in N,N-dimethylformamide (1.2 mL) were added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (72 mg) and 1-hydroxypyrrolidine-2,5-dione (43 mg), and the mixture was stirred at room temperature for 3 hrs. To this reaction mixture was added dropwise a solution of 2-aminoethanol (23 mg) in a mixed solvent of N,N-dimethylformamide (1.2 mL) and 10% aqueous sodium hydrogen carbonate (1.2 mL), and the mixture was stirred at room temperature for 48 hrs. The reaction mixture was diluted with water (25 mL) and extracted with ethyl acetate (25 mL×3). The organic layer washed with saturated brine (25 mL×3), and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (basic silica gel, eluent:ethyl acetate/methanol=10/0→8/2). The object fraction was concentrated under reduced pressure. Chloroform/diisopropyl ether (1/4) was added to the residue, and the resultant precipitate was collected by filtration and dried under reduced pressure to give the title compound (105 mg) as white powder crystals.

reactant | 4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}benzoic acid | 126 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CC2=CC=C(C(=O)O)C=C2 | C27H20ClFN4O3
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 72 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxypyrrolidine-2,5-dione | 43 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | 2-aminoethanol | 23 mg | NCCO | C2H7NO
reactant | sodium hydrogen carbonate | 1.2 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
solvent | water | 25 mL | O | H2O
solvent | N,N-dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
product | 4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}-N-(2-hydroxyethyl)benzamide | 105 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CC2=CC=C(C(=O)NCCO)C=C2 | C29H25ClFN5O3
